US07514463B2
Step 1: 2-(2-nitro-4-trifluoromethylphenyl)-malonic Acid dimethyl ester
Dimethyl malonate (59.7 g, 0.44 mol) was added dropwise to a stirred solution of potassium tert-butoxide (51 g, 0.44 mol) in dry t-butanol (500 mL). To the resultant suspension, a warm solution of 2-chloro-5-trifluoromethylnitrobenzene (50 g, 0.22 mol) in t-butanol (100 mL) was added and the mixture was refluxed for 6 h (reaction monitored by TLC). After completion of the reaction, most of the t-butanol was distilled off under vacuum, and chilled water was then added to the reaction mixture. The pH was adjusted to neutral with dilute hydrochloric acid, which resulted in the precipitation of the product. The mixture was stirred for 30 minutes and the product was filtered off (68 g, 95%). This material was used without further purification in the next step. A small amount was crystallized (EtOAc/hexane, 4:6) for analysis, to yield a yellow crystalline material, mp 65-67° C. 1H NMR (CDCl3) 8.30 (s, 1H), 7.92 (d, J=8.4 Hz, 1H), 7.69 (d, J=8.4 Hz, 1H), 5.37 (s, 1H), 3.80 (s, 6H). MS (FAB) m/z: 322.1 (M++1).

reactant | Dimethyl malonate | 0.44 mol, 59.7 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | potassium tert-butoxide | 0.44 mol, 51 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-5-trifluoromethylnitrobenzene | 0.22 mol, 50 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
solvent | t-butanol | 500 mL | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | 2-(2-nitro-4-trifluoromethylphenyl)-malonic Acid dimethyl ester | COC(C(C(=O)OC)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C12H10F3NO6
